US03951989
To a stirred solution of 4 parts of methyl 2-acetamidothiophene-3 -carboxylate in a mixture of 80 parts by volume of chloroform and 12 parts by volume of pyridine, 20 parts by volume of a 10 % (W/V) solution of chlorine in carbon tetrachloride is added dropwise. After stirring for further 30 minutes, the mixture is washed with an aqueous sodium bicarbonate solution and, then, with water. Evaporation of the solvent, and recrystallization of the residue from methanol gives methyl 2-acetamido-5-chlorothiophene-3-carboxylate as crystals. Colorless needles, melting point: 110°-110.5°C.

reactant | methyl 2-acetamidothiophene-3 -carboxylate | C(C)(=O)NC=1SC=CC1C(=O)OC | C8H9NO3S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | chlorine | ClCl | Cl2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 2-acetamido-5-chlorothiophene-3-carboxylate | C(C)(=O)NC=1SC(=CC1C(=O)OC)Cl | C8H8ClNO3S
